US05688809
B. 5-(4-Methyl-2-nitrophenylamino)-1H-indole
5-Aminoindole (0.264 g, 2.00 mmoles) and 4-fluoro-3-nitrotoluene (0.465 g, 3.00 mmoles) were combined with triethylamine (0.42 ml, 3.01 mmoles) in which 4-fluoro-3-nitrotoluene was the only solvent and the reaction was heated at 225° C. under nitrogen for 18 hours. Chromatography using ether/hexanes [1:1 ] afforded the title compound (90%) as a red amorphous solid. Mp, decomposes 94° C.; Rf =0.55 in ethyl acetate/hexanes [1:1]; 13C NMR (CDCl3) δ143.4, 137.3, 134.2, 131.8, 131.1, 128.7, 126.1, 125.6, 120.8, 117.9, 116.2, 112.1, 102.8, 20.1; LRMS (m/z, relative intensity) 267 (M+, 45), 250 (5), 233 (20), 220 (13). HRMS calculated for C15H13N3O2 : 267.1005. Found: 267.0993.

reactant | 5-Aminoindole | 2.00 mmoles, 0.264 g | NC=1C=C2C=CNC2=CC1 | C8H8N2
reactant | 4-fluoro-3-nitrotoluene | 3.00 mmoles, 0.465 g | FC1=C(C=C(C=C1)C)[N+](=O)[O-] | C7H6FNO2
reactant | triethylamine | 3.01 mmoles, 0.42 ml | C(C)N(CC)CC | C6H15N
product | 5-(4-Methyl-2-nitrophenylamino)-1H-indole | 90% | CC1=CC(=C(C=C1)NC=1C=C2C=CNC2=CC1)[N+](=O)[O-] | C15H13N3O2
